### PR TITLE
[Merged by Bors] - feat(RingTheory/AdjoinRoot): `AdjoinRoot` over a field is a field iff polynomial is irreducible

### PR DESCRIPTION
**Pull request by plp127**
Prove that over a field, `AdjoinRoot f` is a field iff `f` is irreducible.

---

- [x] depends on: #42332
- [x] depends on: #42334

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Maximal.lean [hunk 1]
```diff
@@ -227,6 +227,51 @@ theorem exists_le_prime_notMem_of_isIdempotentElem (a : α) (ha : IsIdempotentEl
   have ⟨p, h1, h2, h3⟩ := exists_le_prime_disjoint _ _ this
   ⟨p, h1, h2, Set.disjoint_right.mp h3 (Submonoid.mem_powers a)⟩
 
+/-- If a maximal principal ideal is not generated by an idempotent,
+then every generator is irreducible. -/
+theorem irreducible_of_isMaximal_of_eq_span_singleton_of_not_isIdempotentElem {a : α}
+    (max : I.IsMaximal) (hI : I = Ideal.span {a})
```
Comment (artie2000) [inline Mathlib/RingTheory/Ideal/Maximal.lean]: why do we have hI? surely we should rewrite to eliminate I from the statement?

File: Mathlib/RingTheory/Ideal/Maximal.lean [hunk 2]
```diff
@@ -227,6 +227,51 @@ theorem exists_le_prime_notMem_of_isIdempotentElem (a : α) (ha : IsIdempotentEl
   have ⟨p, h1, h2, h3⟩ := exists_le_prime_disjoint _ _ this
   ⟨p, h1, h2, Set.disjoint_right.mp h3 (Submonoid.mem_powers a)⟩
 
+/-- If a maximal principal ideal is not generated by an idempotent,
+then every generator is irreducible. -/
+theorem irreducible_of_isMaximal_of_eq_span_singleton_of_not_isIdempotentElem {a : α}
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Maximal.lean:232]: See [`Ideal.span_singleton_prime`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Maximal.html#Ideal.span_singleton_prime)

File: Mathlib/RingTheory/Ideal/Maximal.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/RingTheory/Ideal/Maximal.lean]: sure

File: Mathlib/RingTheory/Ideal/Maximal.lean (hunk 2 above)
Comment (plp127) [reply Mathlib/RingTheory/Ideal/Maximal.lean:232]: I see it now. What do you want me to do about it?

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 3]
```diff
@@ -512,6 +512,20 @@ section Irreducible
 
 variable [Field K] {f : K[X]}
 
+theorem isField_iff_irreducible : IsField (AdjoinRoot f) ↔ Irreducible f := by
+  suffices h : IsField (AdjoinRoot f) → f ≠ 0 by
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot.lean]: Would it be better to just start with a `by_cases hf : f = 0`?

**Review by artie2000 — APPROVED** [review]
LGTM

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 4]
```diff
@@ -512,6 +512,12 @@ section Irreducible
 
 variable [Field K] {f : K[X]}
 
+theorem isField_iff_irreducible : IsField (AdjoinRoot f) ↔ Irreducible f := by
+  refine (Ideal.Quotient.maximal_ideal_iff_isField_quotient _).symm.trans ?_
+  obtain rfl | hf := eq_or_ne f 0
+  · simp [← Ring.isField_iff_maximal_bot, Polynomial.not_isField]
+  · exact (irreducible_iff_isMaximal_span_singleton hf).symm
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot.lean]: Perhaps this should be a separate lemma?

Comment (plp127) [reply Mathlib/RingTheory/AdjoinRoot.lean]: what's the statement?

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot.lean]: That span of {f} is maximal iff f is irreducible.

Comment (plp127) [reply Mathlib/RingTheory/AdjoinRoot.lean]: You mean `Ideal.irreducible_iff_isMaximal_span_singleton`? Should I add another version for non-fields that doesn't assume `f ≠ 0`?

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot.lean]: Yeah, that would be great, thanks!

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 5]
```diff
@@ -515,6 +515,10 @@ section Irreducible
 
 variable [Field K] {f : K[X]}
 
+theorem isField_iff_irreducible : IsField (AdjoinRoot f) ↔ Irreducible f :=
+  (Ideal.Quotient.maximal_ideal_iff_isField_quotient _).symm.trans
+    (Ideal.irreducible_iff_isMaximal_span_singleton_of_not_isField (Polynomial.not_isField K)).symm
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot.lean:520]: Minor, but rather than `symm trans symm`, can you do `(trans).symm`?

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot.lean:520]: (Or use `rw`)

Comment (plp127) [reply Mathlib/RingTheory/AdjoinRoot.lean:520]: I can't use `rw` because this proof uses the defeq between `AdjoinRoot f` and `K[X] ⧸ Ideal.span {f}`, and also the defeq between their `CommRing` instances. I don't see the benefit of using `(trans).symm` over `symm trans symm`.

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot.lean:520]: It's just shorter, that's all.

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot.lean:520]: (e.g., imagine if there were three or four symms that were transed together)

Comment (plp127) [reply Mathlib/RingTheory/AdjoinRoot.lean:520]: In that case, I think I would still prefer
```
  .trans (lemma1 a b c).symm <|
  .trans (lemma2 a b f).symm <|
  .trans (lemma3 f g h).symm <|
    (lemma4 d f g).symm
```
over something like
```
  .symm <|
    .trans (lemma4 d f g) <|
    .trans (lemma3 f g h) <|
    .trans (lemma2 a b f) <|
      (lemma1 a b c)
```
or something like
```
  (((lemma4 d f g).trans (lemma3 f g h)).trans
    ((lemma2 a b f).trans (lemma1 a b c))).symm
```

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot.lean:520]: Fair enough. Just as long as you've thought through it.

maintainer merge

**Review by faenuccio — COMMENTED** [review]
thanks

bors r+
